US09260408B2
Ethanesulfonic acid [5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-amide
To a solution of 6-(5-amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one (intermediate A-2, 0.02 g, 0.079 mmol) in DCM (0.5 mL) was added triethylamine (0.024 g, 0.237 mmol) followed by ethanesulfonyl chloride (0.01 g, 0.079 mmol) and the reaction mixture was stirred at room temperature for 1 h. The mixture was diluted with DCM, poured into water (5 mL) and the aqueous layer was extracted with DCM (2×20 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 10% MeOH-DCM gradient to give the title compound (0.007 g, 23%) as a brown solid. MS: 346.0 (M+H+).

reactant | 6-(5-amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.079 mmol, 0.02 g | NC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C15H15N3O
reactant | triethylamine | 0.237 mmol, 0.024 g | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 0.079 mmol, 0.01 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | water | 5 mL | O | H2O
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | Ethanesulfonic acid [5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-amide | 0.007 g, 23% | CN1C(CCC2=CC(=CC=C12)C=1C=C(C=NC1)NS(=O)(=O)CC)=O | C17H19N3O3S
